US05952362
N-(3-cyanomethyl-2-methyl-phenyl)-methanesulfonamide (3.75 g) was dissolved in 50 ml of dry tetrahydrofuran and cooled in an ice bath under an atmosphere of nitrogen. To this mixture was added 67 ml of 1M diisobutylaluminum hydride (DIBAL) in tetrahydrofuran. The mixture was stirred at 5° C. for 75 minutes. Excess reagent was decomposed with methanol and the solvent was evaporated. The residue was treated with EtOAc, washed with cold 1M hydrochloric acid, washed with brine and dried, and the solvent was evaporated. The residue was purified by silica gel chromatography eluting with methanol:dichloromethane (5:95), giving 1.1 g of N-[2-methyl-3(2-oxo-ethyl)-phenyl]-methanesulfonamide as a yellow oil.

reactant | N-(3-cyanomethyl-2-methyl-phenyl)-methanesulfonamide | 3.75 g | C(#N)CC=1C(=C(C=CC1)NS(=O)(=O)C)C | C10H12N2O2S
reactant | diisobutylaluminum hydride | 1M, 67 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-[2-methyl-3(2-oxo-ethyl)-phenyl]-methanesulfonamide | 1.1 g | CC1=C(C=CC=C1CC=O)NS(=O)(=O)C | C10H13NO3S
